US05240925
d. Preparation of 2-(4-Chlorophenyl)-13-(2,6-dimethyl-4-morpholinyl)tridecanonitrile
This intermediate (900 mg.) was prepared using the procedure described in Example 2a except using 3.9 g. (0.013 mole) of 4-(11-chloroundecyl)-2,6-dimethylmorpholine, 0.62 g. (0.014 mole) of sodium hydride, 1.97 g. (0.013 mole) of 4-chlorobenzyl cyanide, and 75 ml. of a 2 to 1 mixture of toluene and DMF.

reactant | 4-(11-chloroundecyl)-2,6-dimethylmorpholine | 0.013 mole | ClCCCCCCCCCCCN1CC(OC(C1)C)C | C17H34ClNO
reactant | sodium hydride | 0.014 mole | [H-].[Na+]
reactant | 4-chlorobenzyl cyanide | 0.013 mole | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(4-Chlorophenyl)-13-(2,6-dimethyl-4-morpholinyl)tridecanonitrile | ClC1=CC=C(C=C1)C(C#N)CCCCCCCCCCCN1CC(OC(C1)C)C | C25H39ClN2O
